US04673746
A mixture of 1.0 g of 2.3-dichloro-4-(2-fluorobenzoyl)phenoxyacetic acid and 1 g of hydroxylamine hydrochloride in 10 ml of pyridine is refluxed for 2 hours. Thereafter, the solvent is evaporated in vacuo and the residue is stirred for 16 hours with 5% hydrochloric acid. The product is filtered off and the collected solid is recrystallized from aqueous ethyl alcohol to give the product 2,3-dichloro-4-(2-fluorobenzohydroximoyl)phenoxyacetic acid having a melting point of 91° to 96° C.

reactant | 2.3-dichloro-4-(2-fluorobenzoyl)phenoxyacetic acid | 1.0 g | ClC1=C(OCC(=O)O)C=CC(=C1Cl)C(C1=C(C=CC=C1)F)=O | C15H9Cl2FO4
reactant | hydroxylamine hydrochloride | 1 g | Cl.NO
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 2,3-dichloro-4-(2-fluorobenzohydroximoyl)phenoxyacetic acid | ClC1=C(OCC(=O)O)C=CC(=C1Cl)C(C1=C(C=CC=C1)F)=NO | C15H10Cl2FNO4
